US05470980
Bis(1,2,2,6,6-pentamethylpiperidin-4-yl) Hydrazine-1,2-dicarboxylate
The procedure of Example 1 is repeated using 33.9 g of 1,2,2,6,6-pentamethyl-piperidin-4-ol, 13.3 g of dimethyl hydrazine-1,2-dicarboxylate and 0.31 g of tetrabutyl titanate to afford 14.8 g of the title compound as a white solid; mp 189°-191° C.

reactant | 1,2,2,6,6-pentamethyl-piperidin-4-ol | 33.9 g | CN1C(CC(CC1(C)C)O)(C)C | C10H21NO
reactant | dimethyl hydrazine-1,2-dicarboxylate | 13.3 g | N(NC(=O)OC)C(=O)OC | C4H8N2O4
catalyst | tetrabutyl titanate | 0.31 g | CCCC[O-].CCCC[O-].CCCC[O-].CCCC[O-].[Ti+4]
product | Bis(1,2,2,6,6-pentamethylpiperidin-4-yl) Hydrazine-1,2-dicarboxylate | 14.8 g | N(NC(=O)OC1CC(N(C(C1)(C)C)C)(C)C)C(=O)OC1CC(N(C(C1)(C)C)C)(C)C | C22H42N4O4
